US07223791B2
A mixture of 2-nitrobenzoyl chloride (0.190 g), 5-[4-(1,3-dioxolan-2-yl)phenyl]-1H-tetrazole (0.200 g) and pyridine (5 ml) was heated under reflux for 1 hr. After cooling, water was added to the reaction mixture, and the crystals were collected by filtration, and dissolved in ethyl acetate. This solution was washed with 1 M hydrochloric acid, water and saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was washed with hexane to give 2-[4-(1,3-dioxolan-2-yl)phenyl]-5-(2-nitrophenyl)-1,3,4-oxadiazole (0.240 g, yield 77%). Recrystallization from hexane-ethyl acetate gave colorless prism crystals. melting point: 88–89° C.

reactant | 2-nitrobenzoyl chloride | 0.190 g | [N+](=O)([O-])C1=C(C(=O)Cl)C=CC=C1 | C7H4ClNO3
reactant | 5-[4-(1,3-dioxolan-2-yl)phenyl]-1H-tetrazole | 0.200 g | O1C(OCC1)C1=CC=C(C=C1)C1=NN=NN1 | C10H10N4O2
reactant | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | 2-[4-(1,3-dioxolan-2-yl)phenyl]-5-(2-nitrophenyl)-1,3,4-oxadiazole | 0.240 g, yield 77% | O1C(OCC1)C1=CC=C(C=C1)C=1OC(=NN1)C1=C(C=CC=C1)[N+](=O)[O-] | C17H13N3O5
